US05849746
Step 1: N,N'-Di-tert-butyloxycarbonylpiperazine-2-carboxylic acid
To a stirred solution of piperazine-2-carboxylic acid dihydrochloride (10 g, 0.049 mol) in dioxan/water (1:1; 400 mL) was added Na2CO3 (31 g, 0.249 mol) and di-tert-butyl dicarbonate (23.6 g, 0.11 mol) at room temperature. The mixture was stirred for 36 h then the solution was adjusted to pH7 with 5M HCl. The solvents were evaporated in vacuo and the residue chromatographed on silica gel, using CH2Cl2 :MeOH:AcOH (90:10:1), to afford the title compound (14.95 g; 92%) as a colourless solid.

reactant | piperazine-2-carboxylic acid dihydrochloride | 0.049 mol, 10 g | Cl.Cl.N1C(CNCC1)C(=O)O
reactant | Na2CO3 | 0.249 mol, 31 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | di-tert-butyl dicarbonate | 0.11 mol, 23.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 5M | Cl | ClH
solvent | dioxan water | 400 mL | O1CCOCC1.O
product | N,N'-Di-tert-butyloxycarbonylpiperazine-2-carboxylic acid | 14.95 g, 92% | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C(=O)O | C15H26N2O6
